US04018794
By replacing in Example 1, step A, 3-amino-4benzoyl-5-nitrobenzoic acid with 3-amino-4-(4'-methylbenzoyl)-5-nitrobenzoic acid and following the procedure described, 3-hydroxy-4-(4'-methylbenzoyl)-5-nitrobenzoic acid is obtained as a hemihydrate with a melting point of 249.5°-251° C.

reactant | 3-amino-4benzoyl-5-nitrobenzoic acid | NC=1C=C(C(=O)O)C=C(C1C(C1=CC=CC=C1)=O)[N+](=O)[O-] | C14H10N2O5
reactant | 3-amino-4-(4'-methylbenzoyl)-5-nitrobenzoic acid | NC=1C=C(C(=O)O)C=C(C1C(C1=CC=C(C=C1)C)=O)[N+](=O)[O-] | C15H12N2O5
product | 3-hydroxy-4-(4'-methylbenzoyl)-5-nitrobenzoic acid | OC=1C=C(C(=O)O)C=C(C1C(C1=CC=C(C=C1)C)=O)[N+](=O)[O-] | C15H11NO6
